US04500526
B. 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2-glycylamino-5-thiazolo[4,5-c]pyridinio)methyl-3-cephem-4-carboxylate (Iq)
A mixture of diphenylmethyl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate [VIIa] (237 mg, 0.29 mmole) and 2-(N-t-butoxycarbonylglycylamino)thiazolo[4,5-c]pyridine (95 mg, 0.31 mmole) in 2 ml of dry DMSO was allowed to stand at room temperature for 2 hours and then diluted with ether to give the crude quaternary salt, which was treated with 90% TFA and 2 drops of anisole at room temperature for 30 minutes. The mixture was evaporated and triturated with ether to afford 168 mg of pale yellow precipitate, which was purified by a column of HP-20 resin (40 ml) using 30% aqueous CH3OH as an eluant to give 88 mg of the title product Iq. Mp. 178°-187° C. (dec.). Estimated purity by HPLC: 60%.

reactant | diphenylmethyl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | 0.29 mmole, 237 mg | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H38IN5O5S2
reactant | 2-(N-t-butoxycarbonylglycylamino)thiazolo[4,5-c]pyridine | 0.31 mmole, 95 mg | C(C)(C)(C)OC(=O)NCC(=O)NC=1SC2=C(C=NC=C2)N1 | C13H16N4O3S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
catalyst | anisole | 2 drops | C1(=CC=CC=C1)OC | C7H8O
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2-glycylamino-5-thiazolo[4,5-c]pyridinio)methyl-3-cephem-4-carboxylate | 168 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC3=C(C=C2)SC(=N3)NC(CN)=O)C(=O)[O-])C1=O)=N/OC | C22H21N9O6S3
